US04346078
Step 1: -Benzyloxycarbonyl-S-methyl-isothiourea
13.9 g (0.1 mole) of S-methyl-isothiourea are dissolved in 50 ml of water, cooled to a temperature of 0° to 5° C., and at this temperature and with constant stirring 15 ml (0.1 mole) of chloroformic acid benzyl ester and 50 ml of 4 N sodium hydroxide are added in about 20 minutes. The precipitate formed is filtered, washed three times with 50 ml of cold water, then three times with 50 ml of n-hexane, and finally dried over phosphorpentoxide in vacuo. Yield 15.7 g (70 percent) of the named compound. M.p.: 74° to 75° C.; RF1 0.70 to 0.75.

reactant | S-methyl-isothiourea | 0.1 mole, 13.9 g | CSC(N)=N | C2H6N2S
reactant | chloroformic acid benzyl ester | 0.1 mole, 15 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 4 N, 50 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | Benzyloxycarbonyl-S-methyl-isothiourea | C(C1=CC=CC=C1)OC(=O)NC(SC)=N | C10H12N2O2S
